US06025375
To a solution of a mixture (400 mg) of ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-1-cyclopenten-1-yl}methyl]-phenoxy]acetate and ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl}methyl]phenoxy]acetate in a mixture of ethanol (10 ml) and ethyl acetate (10 ml) was added 10% palladium on carbon (50 mg). After being stirred for 6 hours under hydrogen atmosphere, the reaction mixture was filtered. The solvent was evaporated in vacuo to give a residue containing a mixture of ethyl [3-[{(1RS,2RS)-2-(4,5-diphenyloxazol-2-yl)cyclopentan-1-yl}methyl]phenoxy]acetate and ethyl [3-[{(1RS,2SR)-2-(4,5-diphenyloxazol-2-yl)cyclopentan-1-yl}methyl]phenoxy]acetate. The residue was dissolved in ethanol (20 ml), and 1N-sodium hydroxide solution (0.80 ml) was added. After being stirred for 8 hours, the solvent was evaporated in vacuo. The residue was triturated in ether to give a mixture (350 mg) of sodium [3-[{(1RS,2RS)-2-(4,5-diphenyloxazol-2-yl)cyclopentan-1-yl}methyl]phenoxy]acetate and sodium [3-[{(1RS,2SR)-2-(4,5-diphenyloxazol-2-yl)cyclopentan-1-yl}methyl]phenoxy]acetate.

reactant | ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-1-cyclopenten-1-yl}methyl]-phenoxy]acetate | 400 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(CCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H29NO4
reactant | ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl}methyl]phenoxy]acetate | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H29NO4
reactant | ethyl [3-[{(1RS,2RS)-2-(4,5-diphenyloxazol-2-yl)cyclopentan-1-yl}methyl]phenoxy]acetate | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1C(CCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H31NO4
reactant | sodium hydroxide | 0.80 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | sodium [3-[{(1RS,2RS)-2-(4,5-diphenyloxazol-2-yl)cyclopentan-1-yl}methyl]phenoxy]acetate | 350 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1C(CCC1)CC=1C=C(OCC(=O)[O-])C=CC1.[Na+] | InChI=1S/C29H27NO4.Na/c31-26(32)19-33-24-15-7-9-20(18-24)17-23-14-8-16-25(23)29-30-27(21-10-3-1-4-11-21)28(34-29)22-12-5-2-6-13-22;/h1-7,9-13,15,18,23,25H,8,14,16-17,19H2,(H,31,32);/q;+1/p-1
